US09193693B2
Step 1. Methyl 3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-phenylquinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed a solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (130 mg, 0.38 mmol, 1.00 equiv), N,N-dimethylformamide (5 mL), 1,2,3,4-tetrahydroisoquinoline (101.1 mg, 0.76 mmol, 2.00 equiv), potassium carbonate (157.3 mg, 1.14 mmol, 3.00 equiv). The resulting solution was stirred for overnight at 100° C. The reaction was then quenched by the addition of water. The resulting solids were collected by filtration. This resulted in 110 mg (70%) of methyl 3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.38 mmol, 130 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.76 mmol, 101.1 mg, 2.00 equiv | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | 1.14 mmol, 157.3 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-phenylquinoxaline-6-carboxylate | C1N(CCC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C25H21N3O2
